US09212164B2
Step 1. tert-Butyl (1-(methoxycarbamoyl)cyclopropyl)carbamate
1-((tert-butoxycarbonyl)amino)cyclopropanecarboxylic acid (2.00 g, 9.94 mmol), methoxylamine hydrochloride (1.09 g, 13.02 mmol), EDC.HCl (2.50 g, 13.02 mmol), HOBT (1.99 g, 13.02 mmol) and N-methylmorpholine (2.61 g, 25.8 mmol) were dissolved in anhydrous DMF (20.0 mL) and the resulting reaction mixture was stirred at RT for 5 days. The reaction mixture was evaporated to dryness and the residue was taken up in DCM and washed with saturated aqueous NaHCO3. The organic layer was dried (MgSO4), filtered and evaporated to dryness. The residue was chromatographed on a silica gel column eluting with 70% EtOAc/hexanes to afford the title compound (0.82 g, 36%): 1H NMR (400 MHz, DMSO-d6) δ 11.01 (s, 1H), 7.23 (s, 1H), 3.53 (s, 3H), 1.38 (s, 9H), 1.20 (q, J=4.3 Hz, 2H), 0.85 (q, J=4.3 Hz, 2H). This material is used without further purification.

reactant | 1-((tert-butoxycarbonyl)amino)cyclopropanecarboxylic acid | 9.94 mmol, 2.00 g | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
reactant | methoxylamine hydrochloride | 13.02 mmol, 1.09 g | Cl.O(C)N
reactant | EDC.HCl | 13.02 mmol, 2.50 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 13.02 mmol, 1.99 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 25.8 mmol, 2.61 g | CN1CCOCC1 | C5H11NO
solvent | DMF | 20.0 mL | CN(C)C=O | C3H7NO
product | tert-Butyl (1-(methoxycarbamoyl)cyclopropyl)carbamate | 0.82 g, 36% | CONC(=O)C1(CC1)NC(OC(C)(C)C)=O | C10H18N2O4
